US08809339B2
N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-2-nitro-5-(piperidin-1-yl)-benzamide
Into a 50-mL round-bottom flask, was placed a solution of 5-chloro-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-2-nitrobenzamide (500 mg, 1.31 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL), and piperidine (330 mg, 3.88 mmol, 3.00 equiv). The resulting solution was stirred for 4 h at 85° C. in an oil bath. The reaction was then quenched with 100 mL of water. The resulting solution was extracted with 2×100 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×100 mL of brine. The mixture was dried over sodium sulfate and concentrated under vacuum to give 550 mg (98%) of product as a yellow solid.

reactant | 5-chloro-N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-2-nitrobenzamide | 1.31 mmol, 500 mg, 1.00 equiv | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=N2)C2=CC(=C(C=C2)C)C)C1)[N+](=O)[O-] | C19H15ClN4O3
reactant | piperidine | 3.88 mmol, 330 mg, 3.00 equiv | N1CCCCC1 | C5H11N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(5-(3,4-dimethylphenyl)pyrimidin-2-yl)-2-nitro-5-(piperidin-1-yl)-benzamide | 550 mg, 98% | CC=1C=C(C=CC1C)C=1C=NC(=NC1)NC(C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-])=O | C24H25N5O3
